US08686024B2
(1) Synthesis of N-(4-methoxyphenyl)-N-(2-methylallyl)acetamide
To a solution of p-acetanisidide (1.00 g, 6.05 mmol), potassium carbonate (0.92 g, 6.7 mmol), sodium hydroxide (0.27 g, 6.8 mmol) and tetra-n-butylammoniumbromide (0.39 g, 1.2 mmol) in 10 mL of toluene was added 3-chloro-2-methyl-1-propene (0.71 mL, 7.3 mmol) at room temperature. After the reaction mixture was stirred at 75° C. for 4 h, the reaction mixture was cooled to room temperature, and was diluted with ethyl acetate. The solution was washed with water, 3 M HCl, saturated NaHCO3 aqueous solution and brine, successively, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20 to 60/40) to obtain the title compound (1.26 g, 95%).

reactant | p-acetanisidide | 6.05 mmol, 1.00 g | CC(=O)NC1=CC=C(C=C1)OC | C9H11NO2
reactant | potassium carbonate | 6.7 mmol, 0.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 6.8 mmol, 0.27 g | [OH-].[Na+]
reactant | 3-chloro-2-methyl-1-propene | 7.3 mmol, 0.71 mL | ClCC(=C)C | C4H7Cl
catalyst | tetra-n-butylammoniumbromide | 1.2 mmol, 0.39 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-methoxyphenyl)-N-(2-methylallyl)acetamide | 1.26 g, 95% | COC1=CC=C(C=C1)N(C(C)=O)CC(=C)C | C13H17NO2
